US07214677B2
D: 2-Chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-N-(2-ethyl-hexyl)-benzamide
To a solution of 2-ethylhexylamine (15 mg, 0.125 mmol) in dichloroethane (1 ml) was added diisopropylethylamine resin (60 mg, 0.225 mmol) followed by a solution of 2-chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoyl chloride (21 mg, 0.075 mmol) in a 3:1 mixture of dichloroethane and THF (15 ml). The reaction mixture was shaken for 16 hours and filtered. The filtrate was treated with MP-carbonate resin (75 mg, 0.225 mmol) and the resulting mixture was shaken for 3 hours. The mixture was filtered and the resin washed with dichloromethane followed by 9:1 methanol/acetic acid. The combined filtrates were concentrated under reduced pressure to give the title compound as an amorphous solid. Mass spec [M−1] 3:1 ratio of 377.2 and 379.2; 1H nmr (500 MHz, CDCl3) δ 0.92 (t, 3H), 0.96 (t, 3H), 1.26–1.66 (m, 9H), 3.46 (m, 2H), 6.26 (broad s, 1H), 7.51 (d, 1H), 7.59–7.62 (m, 2H), 7.94 (s, 1H), 8.72 (broad s, 1H).

reactant | 2-ethylhexylamine | 0.125 mmol, 15 mg | C(C)C(CN)CCCC | C8H19N
reactant | diisopropylethylamine | 0.225 mmol, 60 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoyl chloride | 0.075 mmol, 21 mg | ClC1=C(C(=O)Cl)C=C(C=C1)N1N=CC(NC1=O)=O | C10H5Cl2N3O3
reactant | MP-carbonate resin | 0.225 mmol, 75 mg | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-Chloro-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-N-(2-ethyl-hexyl)-benzamide | ClC1=C(C(=O)NCC(CCCC)CC)C=C(C=C1)N1N=CC(NC1=O)=O | C18H23ClN4O3
